US04514416
To a solution prepared by introducing 6.0 g of dried gaseous ammonia into 200 ml of anhydrous methanol, was added with stirring at room temperature 40.0 g of methyl 5-methoxyiminomethylsalicylate hydrochloride. The crystals dissolved, yielding a clear yellow solution and after 5 to 10 minutes there occurred precipitation of colorless crystals. The crystals were collected by filtration and washed with methanol to obtain 16.8 g of methyl 5-amidinosalicylate.

reactant | ammonia | 6.0 g | N | H3N
reactant | methyl 5-methoxyiminomethylsalicylate hydrochloride | 40.0 g | Cl.CON=CC1=CC=C(C(C(=O)OC)=C1)O
solvent | methanol | 200 ml | CO | CH4O
product | methyl 5-amidinosalicylate | 16.8 g | C(N)(=N)C1=CC=C(C(C(=O)OC)=C1)O | C9H10N2O3
